### PR TITLE
[Merged by Bors] - feat: Add ConditionallyCompleteLinearOrder versions of Monotone.map_limsSup_of_continuousAt etc.

### PR DESCRIPTION
**Pull request by kkytola**
Generalize some existing lemmas from `CompleteLinearOrder`s to `ConditionallyCompleteLinearOrder`s, adding the appropriate boundedness assumptions:

- `Monotone.map_limsSup_of_continuousAt` + its 3 order-dual variants
- `Monotone.map_limsup_of_continuousAt` + its 3 order-dual variants
- `Monotone.map_sSup_of_continuousAt'` + its 3 order-dual variants
- `Monotone.map_iSup_of_continuousAt'` + its 3 order-dual variants

For the first two to work automatically still on `CompleteLinearOrder`s, the existing macro tactic `isBoundedDefault` about boundedness of filters is used. For the last two to work automatically still on `CompleteLinearOrder`s, a similar new macro tactic `bddDefault` about boundedness of sets is included in the PR.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Order/LiminfLimsup.lean [hunk 1]
```diff
@@ -300,54 +300,124 @@ end CompleteLinearOrder
...
+  [ConditionallyCompleteLinearOrder S] [TopologicalSpace S] [OrderTopology S]
+
+-- Q: Was there a way to "automatically specialize" these kinds of lemmas from
+-- conditionally complete linear orders to complete linear orders so that the then
+-- trivial boundedness assumptions (such as `F.IsBounded (· ≤ ·)`, `F.IsBounded (· ≥ ·)`)
+-- don't need to be provided by the user?
+--
+-- That would allow to use the new `Antitone.map_limsSup_of_continuousAt'` (with prime) and friends
+-- as strictly more general direct replacements of `Antitone.map_limsSup_of_continuousAt` (no
+-- prime) and friends.
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Order/LiminfLimsup.lean:342]: I think you can use something like `(h : f.IsBoundedUnder (· ≤ ·) u := by isBoundedDefault)`. See [tendsto_of_liminf_eq_limsup](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/Order/LiminfLimsup.html#tendsto_of_liminf_eq_limsup) for example.

Comment (ADedecker) [reply Mathlib/Topology/Algebra/Order/LiminfLimsup.lean:342]: If it works indeed you should replace the existing versions.

Comment (kkytola) [reply Mathlib/Topology/Algebra/Order/LiminfLimsup.lean:342]: Thank you! This seems to work. I'm renaming the new ones to see if they now work throughout Mathlib as direct replacements of the old ones.

Comment (kkytola) [reply Mathlib/Topology/Algebra/Order/LiminfLimsup.lean:342]: If I get to removing the old ones altogether, is it ok to keep the `#align`s although the type signature will have changed? Since the results would presumably still work with the same _explicit_ arguments, my naive opinion is that aligning would still be ok.

Comment (ADedecker) [reply Mathlib/Topology/Algebra/Order/LiminfLimsup.lean:342]: Yes that's fine, because 1) indeed this is close enough in practice and 2) we got past `port-complete` so we don't need to be as careful as before IIUC.

Comment (kkytola) [reply Mathlib/Topology/Algebra/Order/LiminfLimsup.lean]: The tactic `isBoundedDefault` was for filters only (as far as I understood). I wrote a similar 2-line macro `setIsBddDefault` to be used with default boundedness of sets.

Comment (kkytola) [reply Mathlib/Topology/Algebra/Order/LiminfLimsup.lean]: Oh, or would it be desirable that the same tactic handles boundedness of both filters and sets in complete linear orders? The tactic `isBoundedDefault` seemed to be in `Filter` namespace, so I thought boundedness of sets would not be in scope, but now I'm not so sure anymore...

Comment (ADedecker) [reply Mathlib/Topology/Algebra/Order/LiminfLimsup.lean]: Yes I think the best solution is to have the same tactic taking care of both. That said, I've thought about it a few times before, and arrived to the conclusion that there is a "good" reason that we don't have the set version: even if we had, we wouldn't be able to merge the APIs of `CompleteLattice` and `ConditionallyCompleteLattice`, because we still can't get rid of the `Nonempty` assumptions that are required in the conditionally complete case but not in the complete case. This situation doesn't happen for (nontrivial?) filters, so here it makes more sense to have each lemma once.

That doesn't mean that we shouldn't add it, in fact it can't hurt and I have some ideas about a (gigantic) refactor that would make it useful, I just wanted to mention why it's not so strange that it is missing.

Comment (ADedecker) [reply Mathlib/Topology/Algebra/Order/LiminfLimsup.lean]: On the technical side, I'm not sure how to make it so that the same tactic work without messing up with the import tree. We could probably take inspiration about `positivity` that is split into small extensions, but if that gets too hard then having two tactics is not that bad (you basically never have to call these tactics explicitly anyway)

File: Mathlib/Order/LiminfLimsup.lean [hunk 2]
```diff
@@ -226,6 +226,30 @@ theorem IsCobounded.mono (h : f ≤ g) : f.IsCobounded r → g.IsCobounded r
...
+
+lemma _root_.Antitone.isCoboundedUnder_le [Preorder X] [Preorder Y] {f : X → Y} (hf : Antitone f)
+    {u : ι → X} (F : Filter ι) [NeBot F] (bdd : F.IsBoundedUnder (· ≤ ·) u) :
+    F.IsCoboundedUnder (· ≤ ·) (f ∘ u) :=
+  @Monotone.isCoboundedUnder_ge ι X Yᵒᵈ _ _ f hf u F _ bdd
+
+lemma _root_.Antitone.isCoboundedUnder_ge [Preorder X] [Preorder Y] {f : X → Y} (hf : Antitone f)
+    {u : ι → X} (F : Filter ι) [NeBot F] (bdd : F.IsBoundedUnder (· ≥ ·) u) :
+    F.IsCoboundedUnder (· ≥ ·) (f ∘ u) :=
+  @Monotone.isCoboundedUnder_le ι X Yᵒᵈ _ _ f hf u F _ bdd
```
Comment (ADedecker) [inline Mathlib/Order/LiminfLimsup.lean:251]: I have some ideas about how to make these a bit stronger, but it would be a bit long to explain. Is it fine if I just open a PR so you can look at it?

Comment (ADedecker) [reply Mathlib/Order/LiminfLimsup.lean:251]: Actually explaining the math idea is not hard: the underlying result is really that, if `F.IsBoundedUnder (· ≤ ·) u)` and `u` is monotone, then `F.IsBoundedUnder (· ≤ ·) (f ∘ u)`, which implies your result. The thing that would be long to explain is how I suggest setting up the API :sweat_smile:

Comment (kkytola) [reply Mathlib/Order/LiminfLimsup.lean:251]: That would be great, of course! Thanks! (For me these were just a way to get unstuck in the proofs of the lemmas mentioned in the PR description, which in turn were mainly a way to get unstuck elsewhere...)

Comment (ADedecker) [reply Mathlib/Order/LiminfLimsup.lean:251]: I've opened that PR as #6287. For example, if `hf : Monotone f` and `bdd : F.IsBoundedUnder (· ≤ ·) u` you have `(hf.isBoundedUnder_le bdd).isCoboundedUnder_ge : F.IsCoboundedUnder (· ≥ ·) (f ∘ u)`. If that is too long you can keep the `Cobounded` version too of course, and prove it that way.

File: Mathlib/Topology/Order/Basic.lean [hunk 3]
```diff
@@ -2573,6 +2573,95 @@ theorem exists_countable_dense_no_bot_top [SeparableSpace α] [Nontrivial α] :
...
+/-- A monotone function continuous at the supremum of a nonempty set sends this supremum to
+the supremum of the image of this set. -/
+theorem Monotone.map_sSup_of_continuousAt' {f : α → β} {A : Set α} (Cf : ContinuousAt f (sSup A))
+    (Mf : Monotone f) (A_nonemp : A.Nonempty) (A_bdd : BddAbove A := by setIsBddDefault) :
+    f (sSup A) = sSup (f '' A) := by
+  --This is a particular case of the more general `IsLUB.isLUB_of_tendsto`
+  refine ((@IsLUB.isLUB_of_tendsto α β _ _ _ _ _ _ f A (sSup A) (f (sSup A))
+          (Mf.monotoneOn _) ?_ A_nonemp ?_).csSup_eq (Set.nonempty_image_iff.mpr A_nonemp)).symm
+  · exact isLUB_csSup A_nonemp A_bdd
+  · exact tendsto_nhdsWithin_of_tendsto_nhds Cf
```
Comment (ADedecker) [inline Mathlib/Topology/Order/Basic.lean:2600]:
```suggestion
    f (sSup A) = sSup (f '' A) :=
  --This is a particular case of the more general `IsLUB.isLUB_of_tendsto`
  .symm <| ((isLUB_csSup A_nonemp A_bdd).isLUB_of_tendsto (Mf.monotoneOn _) A_nonemp <| 
    Cf.mono_left inf_le_left).csSup_eq (A_nonemp.image f)
```
I think this is a bit nicer, but tbh I'm not sure

File: Mathlib/Topology/Order/Basic.lean [hunk 4]
```diff
@@ -2573,6 +2573,95 @@ theorem exists_countable_dense_no_bot_top [SeparableSpace α] [Nontrivial α] :
...
+  rw [iSup, Monotone.map_sSup_of_continuousAt' Cf Mf (range_nonempty g) bdd, ← range_comp, iSup]
+  rfl
+#align monotone.map_supr_of_continuous_at' Monotone.map_iSup_of_continuousAt'
+
+/-- A monotone function continuous at the infimum of a nonempty set sends this infimum to
+the infimum of the image of this set. -/
+theorem Monotone.map_sInf_of_continuousAt' {f : α → β} {A : Set α} (Cf : ContinuousAt f (sInf A))
+    (Mf : Monotone f) (A_nonemp : A.Nonempty) (A_bdd : BddBelow A := by setIsBddDefault) :
+    f (sInf A) = sInf (f '' A) :=
+  @Monotone.map_sSup_of_continuousAt' αᵒᵈ βᵒᵈ _ _ _ _ _ _ f A Cf Mf.dual A_nonemp A_bdd
```
Comment (ADedecker) [inline Mathlib/Topology/Order/Basic.lean:2617]:
```suggestion
  Monotone.map_sSup_of_continuousAt' (α := αᵒᵈ) (β := βᵒᵈ) Cf Mf.dual A_nonemp A_bdd
```
Let's use our new fancy features!
Same below

File: Mathlib/Topology/Algebra/Order/LiminfLimsup.lean [hunk 5]
```diff
@@ -302,106 +302,143 @@ end LiminfLimsup
...
+          (frequently_of_forall (fun r ↦ f_decr (con r))) (bdd_above.isBoundedUnder f_decr)) H
     obtain ⟨m, l_m, m_lt⟩ : (Set.Ioo l F.limsSup).Nonempty := by
       contrapose! h'
       refine' ⟨l, l_lt, by rwa [Set.not_nonempty_iff_eq_empty] at h'⟩
     have B : F.liminf f ≤ f m := by
-      apply liminf_le_of_frequently_le _
-      apply (frequently_lt_of_lt_limsSup (by isBoundedDefault) m_lt).mono
-      intro x hx
-      exact f_decr hx.le
+      apply @liminf_le_of_frequently_le R S _ F f (f m)
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Order/LiminfLimsup.lean:355]:
```suggestion
      apply liminf_le_of_frequently_le _ _
```

File: Mathlib/Topology/Order/Basic.lean (hunk 4 above)
Comment (kkytola) [reply Mathlib/Topology/Order/Basic.lean]: > Let's use our new fancy features! Same below

There were a lot of `@ _ _ _ _ _` for order dual applications in these files. It turned out easier to search and replace all of them. Unfortunately that increases the diff, this could have been a separate chore PR...

I hope this type of a change is first of all a readability improvement, and second of all more robust. For robustness, instead of the exact number of arguments and order of arguments in the lemmas, with named arguments we now rely on the names of a few arguments (although unfortunately those are often alphas and gammas etc). So code could break if argument names are changed elsewhere in the library, but I think fixing is then easy enough.

File: Mathlib/Topology/Algebra/Order/LiminfLimsup.lean [hunk 6]
```diff
@@ -302,106 +302,143 @@ end LiminfLimsup
...
+    simp only [gt_iff_lt, not_lt, ge_iff_le, not_exists, not_and] at h'
     by_contra' H
     obtain ⟨l, l_lt, h'l⟩ : ∃ l < F.limsSup, Set.Ioc l F.limsSup ⊆ { x : R | f x < F.liminf f }
-    exact exists_Ioc_subset_of_mem_nhds ((tendsto_order.1 f_cont.tendsto).2 _ H) ⟨⊥, limsSup_ne_bot⟩
+    · apply exists_Ioc_subset_of_mem_nhds ((tendsto_order.1 f_cont.tendsto).2 _ H)
+      by_contra con
+      simp only [not_exists, not_lt] at con
+      simpa only [lt_self_iff_false] using lt_of_le_of_lt
+        (@liminf_le_of_frequently_le R S _ F f (f (limsSup F))
+          (frequently_of_forall (fun r ↦ f_decr (con r))) (bdd_above.isBoundedUnder f_decr)) H
```
[the remark this answers is not in the document]
Comment (kkytola) [reply Mathlib/Topology/Algebra/Order/LiminfLimsup.lean:347]: Sorry, I honestly can't form an opinion about that!

I guess I mainly opted for not talking about a bottom element, since under the conditionally complete hypotheses it is not given that a bottom element exists. But the proof ends up being a bit of a case bash anyway, and one way to handle some cases would be to consider the case that there indeed exists a bottom element and `F.limsSup` happens to be that.

Is it the number of (nested) reasoning steps that argue by contradiction that seems questionable style here?

I really don't know what would be elegant (or the least inelegant) here. Do you have a clear opinion?

[the remark this answers is not in the document]
Comment (ADedecker) [reply Mathlib/Topology/Algebra/Order/LiminfLimsup.lean:347]: Thinking about it again I think your structure is actually good (and there was no style issue at all with that, I was mostly nit-picking). The only thing I'd change about the structure is I think it would be clearer if you did 
```suggestion
have : \not IsBot F.limsSup := by sorry
```
after `by_contra' H` and then use that in the obtain. Is that clear enough?

File: Mathlib/Topology/Order/Basic.lean [hunk 7]
```diff
@@ -2573,6 +2573,93 @@ theorem exists_countable_dense_no_bot_top [SeparableSpace α] [Nontrivial α] :
...
+
+variable [ConditionallyCompleteLinearOrder α] [TopologicalSpace α] [OrderTopology α]
+  [ConditionallyCompleteLinearOrder β] [TopologicalSpace β] [OrderClosedTopology β] [Nonempty γ]
+
+/-- Sets are automatically bounded or cobounded in complete lattices. To use the same statements
+in complete and conditionally complete lattices but let automation fill automatically the
+boundedness proofs in complete lattices, we use the tactic `setIsBddDefault` in the statements,
+in the form `(hA : BddAbove A := by setIsBddDefault)`. -/
+
+macro "setIsBddDefault" : tactic =>
```
Comment (ADedecker) [inline Mathlib/Topology/Order/Basic.lean:2586]: I think it would be better to call it `bddDefault` (to match `BddAbove`/`BddBelow`) in namespace `Set` and move in just after [OrderBot.bddBelow](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Bounds/Basic.html#OrderBot.bddBelow)

Comment (kkytola) [reply Mathlib/Topology/Order/Basic.lean]: I could not get the namespace for the macro working by enclosing in a namespace or by directly preceding the name with `Set.`.

I moved the macro as suggested, and renamed it `setBddDefault` for now.

Comment (ADedecker) [reply Mathlib/Topology/Order/Basic.lean]: Ah right, this doesn't work like in Lean3. I'd say just `bddDefault` should be fine.

File: Mathlib/Topology/Algebra/Order/LiminfLimsup.lean [hunk 8]
```diff
@@ -302,106 +302,137 @@ end LiminfLimsup
...
-  · rcases eq_or_lt_of_le (bot_le : ⊥ ≤ F.limsSup) with (h | limsSup_ne_bot)
-    · rw [← h]
-      apply liminf_le_of_frequently_le _
-      apply frequently_of_forall
-      intro x
-      exact f_decr bot_le
-    by_cases h' : ∃ c, c < F.limsSup ∧ Set.Ioo c F.limsSup = ∅
+    simp only [liminf, limsInf, eventually_map] at hc ⊢
+    obtain ⟨d, hd, h'd⟩ :=
+      exists_lt_of_lt_csSup ((@Set.nonempty_image_iff R S f _).mpr bdd_above) hc
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Order/LiminfLimsup.lean:324]:
```suggestion
      exists_lt_of_lt_csSup (bdd_above.recOn fun x hx ↦ ⟨f x, Set.mem_image_of_mem f hx⟩) hc
```
Your version breaks the set/predicate border, which is bad for readability of the tactic state

File: Mathlib/Topology/Algebra/Order/LiminfLimsup.lean [hunk 9]
```diff
@@ -302,106 +302,137 @@ end LiminfLimsup
...
         have : (Set.Ioo c F.limsSup).Nonempty := ⟨x, ⟨hx, this⟩⟩
         simp only [hc, Set.not_nonempty_empty] at this
-      apply liminf_le_of_frequently_le _
-      exact B.mono fun x hx ↦ f_decr hx
+      apply liminf_le_of_frequently_le _ (bdd_above.isBoundedUnder f_decr)
+      exact (B.mono fun x hx ↦ f_decr hx)
+    push_neg at h'
     by_contra' H
+    have not_bot : ¬ IsBot F.limsSup := fun maybe_bot ↦ by
+      simpa only [lt_self_iff_false] using lt_of_le_of_lt
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Order/LiminfLimsup.lean:342]:
```suggestion
    have not_bot : ¬ IsBot F.limsSup := fun maybe_bot ↦
      lt_irrefl (F.liminf f) <| lt_of_le_of_lt
```

File: Mathlib/Topology/Algebra/Order/LiminfLimsup.lean [hunk 10]
```diff
@@ -302,106 +302,137 @@ end LiminfLimsup
...
+        (liminf_le_of_frequently_le (frequently_of_forall (fun r ↦ f_decr (maybe_bot r)))
+          (bdd_above.isBoundedUnder f_decr)) H
     obtain ⟨l, l_lt, h'l⟩ : ∃ l < F.limsSup, Set.Ioc l F.limsSup ⊆ { x : R | f x < F.liminf f }
-    exact exists_Ioc_subset_of_mem_nhds ((tendsto_order.1 f_cont.tendsto).2 _ H) ⟨⊥, limsSup_ne_bot⟩
+    · apply exists_Ioc_subset_of_mem_nhds ((tendsto_order.1 f_cont.tendsto).2 _ H)
+      simpa [not_bot] using isBot_or_exists_lt F.limsSup
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Order/LiminfLimsup.lean:347]:
```suggestion
      simpa [IsBot] using not_bot
```

**Review by ADedecker — COMMENTED** [review]
Final nitpicks!

**Comment by ADedecker** [comment]
Thanks! 

maintainer merge

File: Mathlib/Topology/Algebra/Order/LiminfLimsup.lean (hunk 1 above)
Comment (j-loreaux) [reply Mathlib/Topology/Algebra/Order/LiminfLimsup.lean]: I think having two tactics is fine for now. If this kind of thing keeps coming up we can develop a uniform way to deal with it.
